US04871842
3(S)-[5-(1-Benzyloxycarbonyl-4-piperidyl)-1(S)-ethoxycarbonylpentyl]amino-2-oxo-2,3,4,5-tetrahydro-1H-1-benzazepine-1-acetate is treated with hydrogen bromide, subjected to alkaline hydrolysis and purified by XAD-2 column chromatography in the same manner as described in Example 30 to give 0.03 g of 3(S)-[5-(4-piperidyl)-1(S)-carboxypentyl]amino-2-oxo-2,3,4,5-tetrahydro-1H-1-benzazepine-1-acetic acid as a colorless powder.

reactant | 3(S)-[5-(1-Benzyloxycarbonyl-4-piperidyl)-1(S)-ethoxycarbonylpentyl]amino-2-oxo-2,3,4,5-tetrahydro-1H-1-benzazepine-1-acetate | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCC[C@@H](C(=O)OCC)N[C@@H]1C(N(C2=C(CC1)C=CC=C2)CC(=O)[O-])=O
reactant | hydrogen bromide | Br | BrH
product | 3(S)-[5-(4-piperidyl)-1(S)-carboxypentyl]amino-2-oxo-2,3,4,5-tetrahydro-1H-1-benzazepine-1-acetic acid | 0.03 g | N1CCC(CC1)CCCC[C@@H](C(=O)O)N[C@@H]1C(N(C2=C(CC1)C=CC=C2)CC(=O)O)=O | C23H33N3O5
